US06444668B1
6-(3-Cyano-5fluoro-phenyl)-4,4-dimethyl-2oxo-4H-benzo[d][1,3]oxazine-1-carboxylic acid tert-butyl ester
A mixture of 3-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-5-fluorobenzonitrile (0.3 g, 1 mmol), di-tert-butyl dicarbonate (0.33 g, 1.5 mmol), and DMAP (50 mg) in anhydrous acetonitrile was stirred at rt under nitrogen for 4 minutes. The reaction mixture was washed with 1N aqueous HCl, brine, dried (MgSO4). After removal of solvent, the title compound was obtained as a white solid (0.25g, 63%): mp 139-140° C.; 1H-NMR (CDCl3-d6) δ7.66-7.63 (m, 2H), 7.53-7.48 (m, 2H), 7.38-7.35 (m, 2H), 1.79 (s, 6H), 1.62 (s, 9H); MS (APCI) m/z 289([M−H]−, 100%); Anal. Calc. For C22H21FN2O4: C, 66.66, H, 5.34, N, 7.07. Found: C, 66.7, H, 5.41, N, 7.

reactant | 3-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-5-fluorobenzonitrile | 1 mmol, 0.3 g | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=C(C#N)C=C(C2)F)C | C17H13FN2O2
reactant | di-tert-butyl dicarbonate | 1.5 mmol, 0.33 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-(3-Cyano-5fluoro-phenyl)-4,4-dimethyl-2oxo-4H-benzo[d][1,3]oxazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC(C2=C1C=CC(=C2)C2=CC(=CC(=C2)F)C#N)(C)C)=O | C22H21FN2O4
